US06809097B1
A mixture of 4-chloro-6-cyano-7-(2-methoxyethoxy)quinoline hydrochloride (300 mg 1 mmol), (prepared as described for the starting material in Example 1), and 4-chloro-2-fluoroaniline (0.5 ml, 3.4 mmol) in isopropanol (20 ml) was heated at reflux for 3 hours. The mixture was allowed to cool, the solid product was collected by filtration, washed with acetone and dried to give 4-(4-chloro-2-fluoroanilino)-6-cyano-7-(2-methoxyethoxy)quinoline hydrochloride (400 mg, 98%).

reactant | 4-chloro-6-cyano-7-(2-methoxyethoxy)quinoline hydrochloride | 1 mmol, 300 mg | Cl.ClC1=CC=NC2=CC(=C(C=C12)C#N)OCCOC
reactant | 4-chloro-2-fluoroaniline | 3.4 mmol, 0.5 ml | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | 4-(4-chloro-2-fluoroanilino)-6-cyano-7-(2-methoxyethoxy)quinoline hydrochloride | 400 mg, 98% | Cl.ClC1=CC(=C(NC2=CC=NC3=CC(=C(C=C23)C#N)OCCOC)C=C1)F | InChI=1S/C19H15ClFN3O2.ClH/c1-25-6-7-26-19-10-18-14(8-12(19)11-22)16(4-5-23-18)24-17-3-2-13(20)9-15(17)21;/h2-5,8-10H,6-7H2,1H3,(H,23,24);1H
